US07521462B2
4-{[Cyclopropylmethyl-(2,4-dimethyl-thiazol-5-ylmethyl)]-amino}-piperidine-1-carboxylic acid tert-butyl ester (1.96 g, 5.18 mmol) is added to a stirred solution of dichloromethane (5 ml) and anisole (9.0 ml, 82.8 mmol). The reaction is cooled to 0° C. Trifluoroacetic acid (6.0 ml, 72.9 mmol) is then added. The reaction is stirred for 20 minutes at 0° C. and then for 5 h at room temperature. The reaction is loaded onto a pre-washed SCX-2 (10 g) column and washed with methanol (200 ml). The product is then eluted off with 2M ammonia in methanol (100 ml) and concentrated on a rotary evaporator to yield (1.25 g, 87%) of N-(cyclopropylmethyl)-N-[(2,4-dimethyl-1,3-thiazol-5-yl)methyl]piperidin-4-amine: mass spectrum (ion spray): m/z=280.2 (M+1); 1H NMR (CDCl3): δ=3.75 (2H, s), 3.19-3.11 (2H, m), 2.81-2.73 (1H, m), 2.65-2.52 (5H, m), 2.42 (2H, d), 2.32 (3H, s), 1.76 (3H, brd), 1.50-1.38 (2H, m), 0.89-0.80 (1H, m), 0.52-0.44 (2H, m), 0.11-0.05 (2H, m).

reactant | 4-{[Cyclopropylmethyl-(2,4-dimethyl-thiazol-5-ylmethyl)]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 5.18 mmol, 1.96 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=C(N=C(S1)C)C)CC1CC1 | C20H33N3O2S
reactant | anisole | 82.8 mmol, 9.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | Trifluoroacetic acid | 72.9 mmol, 6.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(cyclopropylmethyl)-N-[(2,4-dimethyl-1,3-thiazol-5-yl)methyl]piperidin-4-amine | 1.25 g, 87% | C1(CC1)CN(C1CCNCC1)CC1=C(N=C(S1)C)C | C15H25N3S
